### PR TITLE
Compute limit $\lim_{t \to 0^+} F(it) / G(it) = 18 / \pi^2$

### LINKED ISSUE #88: Compute limit of $$F(it) / G(it)$$ as $$t \to 0+$$
#87 may need to be done first.

### PR DESCRIPTION
**Pull request by seewoo5**
This is mostly done by Claude Opus 4.5, and in principle non-draft, but will be splited into several PRs and styles need to be upgraded a lot. For the purpose, it would be helpful if anyone can give suggestions.

Depends on:
#308 
#323 
#324

### CODE REVIEW

**Comment by seewoo5** [comment]
awaiting-review

File: SpherePacking/ModularForms/FG.lean [hunk 1]
```diff
@@ -598,12 +605,380 @@ $t \mapsto F(it) / G(it)$ is monotone decreasing.
...
+    calc max (max N M) 1 = 1 / (1 / max (max N M) 1) := by field_simp
+      _ < 1 / t := one_div_lt_one_div_of_lt ht_mem ht_dist
+  have h1t_N : 1 / t > N := lt_of_le_of_lt (le_max_left _ _) (lt_of_le_of_lt (le_max_left _ _) h1t)
+  have h1t_M : 1 / t ≥ M :=
+    le_of_lt (lt_of_le_of_lt (le_max_right N M) (lt_of_le_of_lt (le_max_left _ _) h1t))
+  rw [show FmodGReal t = FmodGReal (1 / (1 / t)) by field_simp, hM (1 / t) h1t_M]
+  simp only [Pi.div_apply] at hN
+  convert hN (1 / t) (le_of_lt h1t_N) using 2
+  field_simp [Real.pi_ne_zero]
+  ring
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: I think we can use`tendsto_inv_nhdsGT_zero` to transfer the limit from `atTop` to `nhdsWithin 0 (Ioi 0)`, avoiding calculations with `1/max(max N M) 1`:

```suggestion
  -- Step 5: Use composition with tendsto_inv_nhdsGT_zero
  have h_compose : Tendsto (fun t => (t⁻¹ ^ 2 * FReal t⁻¹ - 12 * π ^ (-1 : ℤ) * t⁻¹ *
        ((F₁ * E₄.toFun).resToImagAxis t⁻¹).re + 36 * π ^ (-2 : ℤ) *
        (E₄.toFun.resToImagAxis t⁻¹).re ^ 2) / ((H₄.resToImagAxis t⁻¹).re ^ 3 *
        (2 * (H₄.resToImagAxis t⁻¹).re ^ 2 + 5 * (H₂.resToImagAxis t⁻¹).re *
        (H₄.resToImagAxis t⁻¹).re + 5 * (H₂.resToImagAxis t⁻¹).re ^ 2)))
      (nhdsWithin (0 : ℝ) (Set.Ioi 0)) (nhds (18 * π ^ (-2 : ℤ))) := by
    convert hlim.comp tendsto_inv_nhdsGT_zero using 2; ring
  -- Transfer hEq through the inverse: 1/t⁻¹ = t for t > 0
  have hEq' : ∀ᶠ t in nhdsWithin (0 : ℝ) (Set.Ioi 0), FmodGReal t =
      (t⁻¹ ^ 2 * FReal t⁻¹ - 12 * π ^ (-1 : ℤ) * t⁻¹ * ((F₁ * E₄.toFun).resToImagAxis t⁻¹).re
        + 36 * π ^ (-2 : ℤ) * (E₄.toFun.resToImagAxis t⁻¹).re ^ 2) /
      ((H₄.resToImagAxis t⁻¹).re ^ 3 *
        (2 * (H₄.resToImagAxis t⁻¹).re ^ 2 +
          5 * (H₂.resToImagAxis t⁻¹).re * (H₄.resToImagAxis t⁻¹).re +
          5 * (H₂.resToImagAxis t⁻¹).re ^ 2)) := by
    have h := tendsto_inv_nhdsGT_zero.eventually hEq
    filter_upwards [h, self_mem_nhdsWithin] with t ht ht_pos
    simp only [Set.mem_Ioi] at ht_pos
    simp only [one_div, inv_inv] at ht
    exact ht
  exact h_compose.congr' (hEq'.mono fun _ h => h.symm)
```

File: SpherePacking/ModularForms/FG.lean [hunk 2]
```diff
@@ -598,12 +605,380 @@ $t \mapsto F(it) / G(it)$ is monotone decreasing.
...
+    F (S • z) = z ^ 12 * F z - 12 * I * π ^ (-1 : ℤ) * z ^ 11 * (F₁ * E₄.toFun) z
+      - 36 * π ^ (-2 : ℤ) * z ^ 10 * (E₄.toFun z) ^ 2 := by
+  -- Expand F, F₁ and apply S-transformation formulas
+  have hLHS : F (S • z) = (E₂ (S • z) * E₄ (S • z) - E₆ (S • z)) ^ 2 := rfl
+  have hRHS : F z = (E₂ z * E₄ z - E₆ z) ^ 2 := rfl
+  have hF₁E₄ : (F₁ * E₄.toFun) z = (E₂ z * E₄ z - E₆ z) * E₄ z := rfl
+  rw [hLHS, hRHS, hF₁E₄, E₂_S_transform, E₄_S_transform, E₆_S_transform]
+  simp only [zpow_neg, zpow_one, ModularForm.toFun_eq_coe]
+  have hI3 : I ^ 3 = -I := by rw [pow_succ, I_sq]; ring
+  field_simp; ring_nf; simp only [I_sq, hI3]; field_simp; ring
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: I think we can use `Complex.I_pow_three`:
```suggestion
  field_simp; ring_nf; simp only [I_sq, I_pow_three]; field_simp; ring
```

File: SpherePacking/ModularForms/FG.lean [hunk 3]
```diff
@@ -598,12 +605,380 @@ $t \mapsto F(it) / G(it)$ is monotone decreasing.
...
+lemma sq_mul_FReal_tendsto_zero :
+    Tendsto (fun s : ℝ => s ^ 2 * FReal s) atTop (nhds 0) := by
+  refine ((continuous_re.tendsto 0).comp rpow_sq_mul_FReal_resToImagAxis_tendsto_zero).congr' ?_
+  filter_upwards [eventually_gt_atTop 0] with s hs
+  unfold FReal
+  simp only [Function.comp_apply, Function.resToImagAxis, ResToImagAxis, hs, ↓reduceDIte]
+  -- (s : ℂ) ^ (2 : ℂ) = (s ^ 2 : ℂ) for s > 0
+  have h_cpow : (s : ℂ) ^ (2 : ℂ) = ((s ^ 2 : ℝ) : ℂ) := by
+    rw [show (s ^ 2 : ℝ) = s ^ (2 : ℝ) from (Real.rpow_natCast s 2).symm]
+    exact (Complex.ofReal_cpow (le_of_lt hs) 2).symm
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: `norm_cast` worked for me:
```suggestion
  have h_cpow : (s : ℂ) ^ (2 : ℂ) = ((s ^ 2 : ℝ) : ℂ) := by norm_cast
```

**Review by cameronfreer — APPROVED** [review]
I saw a few small places to golf but otherwise LGTM

File: SpherePacking/ModularForms/FG.lean [hunk 4]
```diff
@@ -1154,12 +1148,321 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+  have hLHS : F (S • z) = (E₂ (S • z) * E₄ (S • z) - E₆ (S • z)) ^ 2 := rfl
+  have hRHS : F z = (E₂ z * E₄ z - E₆ z) ^ 2 := rfl
+  have hF₁E₄ : (F₁ * E₄.toFun) z = (E₂ z * E₄ z - E₆ z) * E₄ z := rfl
+  rw [hLHS, hRHS, hF₁E₄, E₂_S_transform, E₄_S_transform, E₆_S_transform]
+  simp only [ModularForm.toFun_eq_coe, zpow_neg, zpow_one]
+  field_simp
+  ring_nf
+  simp only [I_sq, I_pow_three]
+  field_simp
+  ring
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]:
```suggestion
  field
```

Comment (thefundamentaltheor3m) [reply SpherePacking/ModularForms/FG.lean]: I don't like this not-strictly-terminal `field_simp` - somehow if the `simp only` can be integrated into these `field_simp`s and `ring`s, then maybe the whole thing can also be compressed using `field` (which, according to the docs, is shorthand for `field_simp` followed by `ring`)

File: SpherePacking/ModularForms/FG.lean [hunk 5]
```diff
@@ -1154,12 +1148,321 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+    simp only [I_sq]
+    ring
+  have hFz : F z = F.resToImagAxis t := by
+    simpa [z] using (ResToImagAxis.I_mul_t_eq F t ht)
+  have hF₁E₄z : (F₁ * E₄.toFun) z = (F₁ * E₄.toFun).resToImagAxis t := by
+    simpa [z] using (ResToImagAxis.I_mul_t_eq (F₁ * E₄.toFun) t ht)
+  have hE₄z : E₄.toFun z = E₄.toFun.resToImagAxis t := by
+    simpa [z] using (ResToImagAxis.I_mul_t_eq E₄.toFun t ht)
+  rw [hFz, hF₁E₄z, hE₄z] at hF
+  rw [F_eq_FReal ht, F_eq_FReal (one_div_pos.mpr ht)] at hF
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]:
```suggestion
  rw [hFz, hF₁E₄z, hE₄z, F_eq_FReal ht, F_eq_FReal (one_div_pos.mpr ht)] at hF
```

File: SpherePacking/ModularForms/FG.lean [hunk 6]
```diff
@@ -1154,12 +1148,321 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+The following lemmas establish the asymptotic behavior needed for computing
+the limit of F/G as t → 0⁺.
+-/
+
+/-- F₁ has a Fourier expansion starting at index 1 (it's a cusp form).
+F₁ = E₂*E₄ - E₆ = 720 * ∑_{n≥1} n*σ₃(n)*q^n -/
+lemma F₁_fourier_expansion (z : ℍ) :
+    F₁ z = 720 * ∑' (n : ℕ+), n * (σ 3 n) * cexp (2 * π * Complex.I * n * z) := by
+  unfold F₁
+  exact E₂_mul_E₄_sub_E₆ z
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]: The `unfold` can be deleted

```suggestion
  exact E₂_mul_E₄_sub_E₆ z
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 7]
```diff
@@ -84,6 +84,34 @@ theorem ResToImagAxis.SlashActionS (F : ℍ → ℂ) (k : ℤ) {t : ℝ} (ht : 0
...
+  have ht_inv : 0 < 1 / t := one_div_pos.mpr ht
+  set z : ℍ := ⟨I * t, by simp [ht]⟩ with hz_def
+  have hS_z : S • z = ⟨I / t, by simp [ht]⟩ := by
+    apply UpperHalfPlane.ext
+    simp only [UpperHalfPlane.modular_S_smul, hz_def, div_eq_mul_inv]
+    change (-(I * ↑t))⁻¹ = I * (↑t)⁻¹
+    have hne : (I : ℂ) * t ≠ 0 := mul_ne_zero I_ne_zero (ofReal_ne_zero.mpr ht.ne')
+    field_simp [hne]
+    simp only [I_sq]
+    ring
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: This is again not ideal...

**Review by thefundamentaltheor3m — COMMENTED** [review]
Minor style suggestions, otherwise LGTM

File: SpherePacking/ModularForms/ResToImagAxis.lean (hunk 7 above)
Comment (b-mehta) [reply SpherePacking/ModularForms/ResToImagAxis.lean]: does `field_simp [hne, I_sq]; ring` work?

Comment (seewoo5) [reply SpherePacking/ModularForms/ResToImagAxis.lean]: This works instead:
```lean4
    field_simp [hne, I_sq]
    ring_nf
    simp
```

**Comment by cameronfreer** [comment]
Once #367 merges, all of these should work:

```lean4
  /-- E₄.resToImagAxis s (real part) → 1 as s → ∞. -/
  lemma E₄_re_resToImagAxis_tendsto_one :
      Tendsto (fun s ↦ (E₄.toFun.resToImagAxis s).re) atTop (nhds 1) := by
    have := E₄_resToImagAxis_tendsto_one
    tendsto_cont

  /-- H₂.resToImagAxis s (real part) tends to 0 as s → ∞. -/
  lemma H₂_re_resToImagAxis_tendsto_zero :
      Tendsto (fun s ↦ (H₂.resToImagAxis s).re) atTop (nhds 0) := by
    have := H₂_resToImagAxis_tendsto_zero
    tendsto_cont

  /-- H₄.resToImagAxis s (real part) tends to 1 as s → ∞. -/
  lemma H₄_re_resToImagAxis_tendsto_one :
      Tendsto (fun s ↦ (H₄.resToImagAxis s).re) atTop (nhds 1) := by
    have := H₄_resToImagAxis_tendsto_one
    tendsto_cont

  /-- The numerator expression N(s) = s² * FReal s - 12/π * s * (F₁*E₄)(is) + 36/π² * E₄(is)²
  tends to 36/π² as s → ∞. -/
  lemma numerator_tendsto_at_infty :
      Tendsto (fun s ↦ s ^ 2 * FReal s - 12 * π ^ (-1 : ℤ) * s * ((F₁ * E₄.toFun).resToImagAxis s).re
          + 36 * π ^ (-2 : ℤ) * (E₄.toFun.resToImagAxis s).re ^ 2)
        atTop (nhds (36 * π ^ (-2 : ℤ))) := by
    have := sq_mul_FReal_tendsto_zero
    have := mul_F₁E₄_re_tendsto_zero
    have := E₄_re_resToImagAxis_tendsto_one
    tendsto_cont

  /-- The denominator expression D(s) = H₄(is)³ * (2*H₄(is)² + 5*H₂(is)*H₄(is) + 5*H₂(is)²)
  tends to 2 as s → ∞. -/
  lemma denominator_tendsto_at_infty :
      Tendsto (fun s ↦ (H₄.resToImagAxis s).re ^ 3 *
        (2 * (H₄.resToImagAxis s).re ^ 2 + 5 * (H₂.resToImagAxis s).re * (H₄.resToImagAxis s).re
          + 5 * (H₂.resToImagAxis s).re ^ 2)) atTop (nhds 2) := by
    have := H₂_re_resToImagAxis_tendsto_zero
    have := H₄_re_resToImagAxis_tendsto_one
    tendsto_cont
```

File: SpherePacking/ModularForms/FG.lean [hunk 8]
```diff
@@ -924,37 +861,29 @@ private theorem D_exp_pi_div_exp_pi (z : ℍ) :
...
-  have h_sum : Filter.Tendsto (fun z => D f z / f z + D h z / h z) atImInfty
-      (nhds ((1 : ℂ) / 2)) := by
-    have hf_const : Filter.Tendsto (fun z => D f z / f z) atImInfty (nhds ((1 : ℂ) / 2)) := by
-      have hf_eq : ∀ z : ℍ, D f z / f z = 1 / 2 := D_exp_pi_div_exp_pi
-      simp_rw [hf_eq]; exact tendsto_const_nhds
-    simpa using hf_const.add hDh_div_h
-  exact h_sum.congr' (by filter_upwards [h_logderiv_eq] with z hz; exact hz.symm)
+  have hf_const : Filter.Tendsto (fun z => D f z / f z) atImInfty (nhds ((1 : ℂ) / 2)) := by
+    have hf_eq : ∀ z : ℍ, D f z / f z = 1 / 2 := D_exp_pi_div_exp_pi
+    simp_rw [hf_eq]; exact tendsto_const_nhds
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]: Why not just
```lean
simp_rw [D_exp_pi_div_exp_pi]
exact tendsto_const_nhds
```
instead of the nested `have` statement followed by the two statements on one line?

File: SpherePacking/ModularForms/FG.lean [hunk 9]
```diff
@@ -924,37 +861,29 @@ private theorem D_exp_pi_div_exp_pi (z : ℍ) :
...
+  refine ((by simpa using hf_const.add hDh_div_h :
+    Filter.Tendsto (fun z => D f z / f z + D h z / h z) atImInfty (nhds ((1 : ℂ) / 2))).congr' ?_)
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]: Can we not say `Tendsto` instead of `Filter.Tendsto`? (We've opened `Filter`)

**Review by thefundamentaltheor3m — COMMENTED** [review]
Maybe the style can be improved a little bit but it's mostly ok

**Comment by seewoo5** [comment]
I think this whole `FG.lean` needs quite a lot of golfs, but probably I'd do it after #331 merged.

**Comment by seewoo5** [comment]
Some proofs are updated/golfed after #378 got merged.

File: SpherePacking/ModularForms/FG.lean [hunk 10]
```diff
@@ -1149,12 +1129,261 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+    := by
+  have hmod : n % 4 < 4 := Nat.mod_lt n (by norm_num)
+  rw [mul_pow, Complex.I_pow_eq_pow_mod]
+  interval_cases n % 4 <;> simp
+
+/- Functional equation of $F$ -/
+theorem F_functional_equation (z : ℍ) :
+    F (S • z) = z ^ 12 * F z - 12 * I * π ^ (-1 : ℤ) * z ^ 11 * (F₁ * E₄.toFun) z
+      - 36 * π ^ (-2 : ℤ) * z ^ 10 * (E₄.toFun z) ^ 2 := by
+  have hLHS : F (S • z) = (E₂ (S • z) * E₄ (S • z) - E₆ (S • z)) ^ 2 := rfl
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: I think the three `have` statements can be dropped:
```
theorem F_functional_equation (z : ℍ) :
    F (S • z) = z ^ 12 * F z - 12 * I * π ^ (-1 : ℤ) * z ^ 11 * (F₁ * E₄.toFun) z
      - 36 * π ^ (-2 : ℤ) * z ^ 10 * (E₄.toFun z) ^ 2 := by
  rw [F, F₁, E₂_S_transform, E₄_S_transform, E₆_S_transform]
  simp only [zpow_neg, zpow_one, ModularForm.toFun_eq_coe]
  field_simp
  ring_nf
  simp only [I_sq, I_pow_three]
  field_simp
  ring
```

File: SpherePacking/ModularForms/FG.lean [hunk 11]
```diff
@@ -1149,12 +1129,261 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+  have hF₁E₄ : (F₁ * E₄.toFun) z = (E₂ z * E₄ z - E₆ z) * E₄ z := rfl
+  rw [hLHS, hRHS, hF₁E₄, E₂_S_transform, E₄_S_transform, E₆_S_transform]
+  simp only [ModularForm.toFun_eq_coe, zpow_neg, zpow_one]
+  field_simp
+  ring_nf
+  simp only [I_sq, I_pow_three]
+  field_simp
+  ring
+
+theorem F_functional_equation' {t : ℝ} (ht : 0 < t) :
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean:1035]: I think this can be proved directly without using the sorried `F_eq_FReal` -- not sure if that's helpful.

```
theorem F_functional_equation' {t : ℝ} (ht : 0 < t) :
    FReal (1 / t) = t ^ 12 * FReal t
      - 12 * π ^ (-1 : ℤ) * t ^ 11 * (F₁ * E₄.toFun).resToImagAxis t
      + 36 * π ^ (-2 : ℤ) * t ^ 10 * (E₄.toFun.resToImagAxis t) ^ 2 := by
  let z : ℍ := ⟨I * t, by simp [ht]⟩
  have hF :
      F.resToImagAxis (1 / t) = (t : ℂ) ^ 12 * F z
        - 12 * π ^ (-1 : ℤ) * t ^ 11 * (F₁ * E₄.toFun) z
        + 36 * π ^ (-2 : ℤ) * t ^ 10 * (E₄.toFun z) ^ 2 := by
    rw [ResToImagAxis.one_div_eq_S_smul F ht, F_functional_equation z]
    simp only [z, I_mul_t_pow_nat]
    ring_nf
    simp only [I_sq]
    ring
  rw [FReal, hF]
  simp only [
    show F z = F.resToImagAxis t by
      simpa [z] using ResToImagAxis.I_mul_t_eq F t ht,
    show (F₁ * E₄.toFun) z = (F₁ * E₄.toFun).resToImagAxis t by
      simpa [z] using ResToImagAxis.I_mul_t_eq (F₁ * E₄.toFun) t ht,
    show E₄.toFun z = E₄.toFun.resToImagAxis t by
      simpa [z] using ResToImagAxis.I_mul_t_eq E₄.toFun t ht,
    ResToImagAxis.Real.eq_real_part F_imag_axis_real t,
    ResToImagAxis.Real.eq_real_part
      (ResToImagAxis.Real.mul F₁_imag_axis_real E₄_imag_axis_real) t,
    ResToImagAxis.Real.eq_real_part E₄_imag_axis_real t]
  simp only [Complex.ofReal_sub, Complex.ofReal_add, Complex.ofReal_mul, Complex.ofReal_pow,
    Complex.ofReal_zpow π]
  ring
```

File: SpherePacking/ModularForms/FG.lean [hunk 12]
```diff
@@ -1149,12 +1129,261 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+/- Functional equation of $G$ -/
+theorem G_functional_equation (z : ℍ) :
+    G (S • z) = -z ^ 10 * H₄ z ^ 3 * (2 * H₄ z ^ 2 + 5 * H₂ z * H₄ z + 5 * H₂ z ^ 2) := by
+  have hG_expand : G (S • z) = H₂ (S • z) ^ 3 *
+      ((2 : ℝ) * H₂ (S • z) ^ 2 + (5 : ℝ) * H₂ (S • z) * H₄ (S • z) +
+       (5 : ℝ) * H₄ (S • z) ^ 2) := rfl
+  simp only [hG_expand, H₂_S_action', H₄_S_action', ofReal_ofNat]
+  ring
+
+theorem G_functional_equation' {t : ℝ} (ht : 0 < t) :
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean:1061]: Likewise, there's this proof without using the `G_eq_GReal` sorry:

```
theorem G_functional_equation' {t : ℝ} (ht : 0 < t) :
    GReal (1 / t) = t ^ 10 * H₄.resToImagAxis t ^ 3
      * (2 * H₄.resToImagAxis t ^ 2 + 5 * H₂.resToImagAxis t * H₄.resToImagAxis t
        + 5 * H₂.resToImagAxis t ^ 2) := by
  set z : ℍ := ⟨I * t, by simp [ht]⟩ with hz_def
  have hG_val : G.resToImagAxis (1 / t) = (t : ℂ) ^ 10 * H₄.resToImagAxis t ^ 3 *
      (2 * H₄.resToImagAxis t ^ 2 + 5 * H₂.resToImagAxis t * H₄.resToImagAxis t +
       5 * H₂.resToImagAxis t ^ 2) := by
    rw [ResToImagAxis.one_div_eq_S_smul G ht, G_functional_equation z]
    simp only [hz_def, coe_mk_subtype, I_mul_t_pow_nat,
      ResToImagAxis.I_mul_t_eq H₂ t ht, ResToImagAxis.I_mul_t_eq H₄ t ht]
    ring
  rw [GReal, hG_val,
    ResToImagAxis.Real.eq_real_part H₂_imag_axis_real t,
    ResToImagAxis.Real.eq_real_part H₄_imag_axis_real t]
  simp
```

File: SpherePacking/ModularForms/FG.lean [hunk 13]
```diff
@@ -1149,12 +1129,261 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+  -- F₁ * E₄ is bounded by F₁ (since E₄ is bounded), and F₁ = O(exp(-2πy))
+  have hprod_bigO : (F₁ * E₄.toFun) =O[atImInfty] fun τ ↦ Real.exp (-(2 * π) * τ.im) := by
+    calc (F₁ * E₄.toFun) =O[atImInfty] fun τ ↦ Real.exp (-(2 * π) * τ.im) * 1 :=
+      F₁_isBigO_exp_atImInfty.mul E₄_isBoundedAtImInfty
+      _ = fun τ ↦ Real.exp (-(2 * π) * τ.im) := by simp
+  exact tendsto_rpow_mul_resToImagAxis_of_isBigO_exp (by positivity) hprod_bigO 1
+
+/-- The numerator expression N(s) = s² * FReal s - 12/π * s * (F₁*E₄)(is) + 36/π² * E₄(is)²
+tends to 36/π² as s → ∞. -/
+lemma numerator_tendsto_at_infty :
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean:1138]: I think this works:
```
lemma numerator_tendsto_at_infty :
    Tendsto (fun s : ℝ =>
      s ^ 2 * FReal s - 12 * π ^ (-1 : ℤ) * s * ((F₁ * E₄.toFun).resToImagAxis s).re
        + 36 * π ^ (-2 : ℤ) * (E₄.toFun.resToImagAxis s).re ^ 2)
      atTop (nhds (36 * π ^ (-2 : ℤ))) := by
  simpa using (sq_mul_FReal_tendsto_zero.sub
      (mul_F₁E₄_re_tendsto_zero.const_mul (12 * π ^ (-1 : ℤ)))).add
    (E₄_re_resToImagAxis_tendsto_one.pow 2 |>.const_mul (36 * π ^ (-2 : ℤ)))
```

File: SpherePacking/ModularForms/FG.lean [hunk 14]
```diff
@@ -1149,12 +1129,261 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+/-- The denominator expression D(s) = H₄(is)³ * (2*H₄(is)² + 5*H₂(is)*H₄(is) + 5*H₂(is)²)
+tends to 2 as s → ∞. -/
+lemma denominator_tendsto_at_infty :
+    Tendsto (fun s ↦ (H₄.resToImagAxis s).re ^ 3 *
+      (2 * (H₄.resToImagAxis s).re ^ 2 + 5 * (H₂.resToImagAxis s).re * (H₄.resToImagAxis s).re
+        + 5 * (H₂.resToImagAxis s).re ^ 2)) atTop (nhds 2) := by
+  tendsto_cont [H₂_resToImagAxis_tendsto_zero, H₄_resToImagAxis_tendsto_one]
+
+/-- G(1/s) = s^10 * (H₄(is))³ * (2(H₄(is))² + 5H₂(is)H₄(is) + 5(H₂(is))²) -/
+lemma G_functional_eq_real {s : ℝ} (hs : 0 < s) :
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean:1155]: Not sure if this is better:
```
lemma G_functional_eq_real {s : ℝ} (hs : 0 < s) :
    GReal (1 / s) = s ^ 10 * (H₄.resToImagAxis s).re ^ 3 *
      (2 * (H₄.resToImagAxis s).re ^ 2 + 5 * (H₂.resToImagAxis s).re * (H₄.resToImagAxis s).re
        + 5 * (H₂.resToImagAxis s).re ^ 2) := by
  apply Complex.ofReal_injective
  simpa only [ResToImagAxis.Real.eq_real_part H₂_imag_axis_real s,
    ResToImagAxis.Real.eq_real_part H₄_imag_axis_real s, Complex.ofReal_mul,
    Complex.ofReal_pow, Complex.ofReal_add, Complex.ofReal_ofNat] using
    G_functional_equation' hs
```

**Comment by seewoo5** [comment]
@cameronfreer Thank you for your comments. I roughly applied your suggestions, followed by further simplifications with Fable 5. Also, definitions of `FReal` and `GReal` are changed - `t > 0` hypothesis is removed.

File: SpherePacking/ModularForms/FG.lean [hunk 15]
```diff
@@ -991,12 +1018,204 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
     rw [interior_Ioi] at ht
     exact deriv_FmodGReal_neg t ht
 
+lemma I_mul_t_pow_nat (t : ℝ) (n : ℕ) : (I * t) ^ n =
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]: Should be renamed to `I_mul_npow` and should take in a complex input

File: SpherePacking/ModularForms/FG.lean [hunk 16]
```diff
@@ -991,12 +1018,204 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+          + 36 * π ^ (-2 : ℤ) * t ^ 10 * (E₄.toFun z) ^ 2 := by
+    rw [ResToImagAxis.one_div_eq_S_smul F ht, F_functional_equation z]
+    simp only [z, I_mul_t_pow_nat]
+    linear_combination 12 * (π : ℂ) ^ (-1 : ℤ) * (t : ℂ) ^ 11 * (F₁ * E₄.toFun) z * I_sq
+  have hFz : F z = F.resToImagAxis t := by simpa [z] using ResToImagAxis.I_mul_t_eq F t ht
+  have hF₁E₄z : (F₁ * E₄.toFun) z = (F₁ * E₄.toFun).resToImagAxis t := by
+    simpa [z] using ResToImagAxis.I_mul_t_eq (F₁ * E₄.toFun) t ht
+  have hE₄z : E₄.toFun z = E₄.toFun.resToImagAxis t := by
+    simpa [z] using ResToImagAxis.I_mul_t_eq E₄.toFun t ht
+  rwa [hFz, hF₁E₄z, hE₄z, F_eq_FReal t, F_eq_FReal (1 / t)] at hF
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]: These can (and should) be turned into a `calc` block. I'd guess something can be done about `hF` as well.

File: SpherePacking/ModularForms/FG.lean [hunk 17]
```diff
@@ -991,12 +1018,204 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+      - 36 * π ^ (-2 : ℤ) * z ^ 10 * (E₄.toFun z) ^ 2 := by
+  simp only [F, F₁, Pi.pow_apply, Pi.mul_apply, Pi.sub_apply, ModularForm.toFun_eq_coe,
+    E₂_S_transform, E₄_S_transform, E₆_S_transform, zpow_neg, zpow_one]
+  field_simp [ne_zero z]
+  linear_combination (12 * I * (z : ℂ) * π * (E₂ z * E₄ z - E₆ z) * E₄ z + 36 * E₄ z ^ 2) * I_sq
+
+theorem F_functional_equation' {t : ℝ} (ht : 0 < t) :
+    FReal (1 / t) = t ^ 12 * FReal t - 12 * π ^ (-1 : ℤ) * t ^ 11 * (F₁ * E₄.toFun).resToImagAxis t
+      + 36 * π ^ (-2 : ℤ) * t ^ 10 * (E₄.toFun.resToImagAxis t) ^ 2 := by
+  let z : ℍ := ⟨I * t, by simp [ht]⟩
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean:1038]: Is this necessary?

File: SpherePacking/ModularForms/FG.lean [hunk 18]
```diff
@@ -991,12 +1018,204 @@ theorem FmodG_strictAntiOn : StrictAntiOn FmodGReal (Set.Ioi 0) := by
...
+    simpa [z] using ResToImagAxis.I_mul_t_eq E₄.toFun t ht
+  rwa [hFz, hF₁E₄z, hE₄z, F_eq_FReal t, F_eq_FReal (1 / t)] at hF
+
+/- Functional equation of $G$ -/
+theorem G_functional_equation (z : ℍ) :
+    G (S • z) = -z ^ 10 * H₄ z ^ 3 * (2 * H₄ z ^ 2 + 5 * H₂ z * H₄ z + 5 * H₂ z ^ 2) := by
+  have hG_expand : G (S • z) = H₂ (S • z) ^ 3 *
+      ((2 : ℝ) * H₂ (S • z) ^ 2 + (5 : ℝ) * H₂ (S • z) * H₄ (S • z) +
+       (5 : ℝ) * H₄ (S • z) ^ 2) := rfl
+  simp only [hG_expand, H₂_S_action', H₄_S_action', ofReal_ofNat]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]: Can we use `show ... by` for this `hG_expand`?

Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean]: It seems that providing `Pi.mul_apply`, `Pi.add_apply`, etc to `simp` is enough.

File: SpherePacking/ModularForms/FG.lean (hunk 15 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean]: updated!

File: SpherePacking/ModularForms/FG.lean (hunk 17 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean:1038]: not sure about good way, fyi here's claude's comment: `kept let z. Honest answer to "is this necessary?": yes — z appears in hF's statement, the power lemmas, the linear_combination, and three times in the calc. Inlining ⟨I*t, _⟩ everywhere would be strictly worse.`

**Review by thefundamentaltheor3m — APPROVED** [review]
